US05401769
Methylcarbamic acid 2-dibenzofuranyl ester
A solution of 2-hydroxydibenzofuran (5.0 g, 27 mmol), methyl isocyanate (1.9 mL, 32 mmol) and triethylamine (3.0 mL, 22 mmol) in 75 mL of methylene chloride was stirred under nitrogen at room temperature overnight. During this time a solid formed. Additional methylene chloride was added and the solid dissolved. The reaction was then extracted with 1N HCl, dried (MgSO4) and the solvent removed under reduced pressure to give 5.47 g of a yellow solid. Recrystallization from isopropyl ether gave 3.43 g (52%) of the title compound as a light brown crystalline solid, mp 155°-156° C.

reactant | 2-hydroxydibenzofuran | 27 mmol, 5.0 g | OC1=CC2=C(OC3=C2C=CC=C3)C=C1 | C12H8O2
reactant | methyl isocyanate | 32 mmol, 1.9 mL | CN=C=O | C2H3NO
reactant | triethylamine | 22 mmol, 3.0 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 75 mL | C(Cl)Cl | CH2Cl2
product | Methylcarbamic acid 2-dibenzofuranyl ester | 5.47 g | C1=C(C=CC=2OC3=C(C21)C=CC=C3)OC(NC)=O | C14H11NO3
